US07534797B2
(2-Phenylquinolin-7-yl)methanol
Under N2, to a solution of 2-phenylquinoline-7-carboxylic acid hydrochloride (144 mg, 0.5 mmol) in THF (5 mL) was added LiAlH4 (95 mg, 2.5 mmol) in two portions. The mixture was stirred at rt for 15 h, quenched with water (1 mL), and filtered through a Celite pad, which was washed with EtOAc (30 mL). The combined filtrates were dried over MgSO4, filtered, concentrated, and purified by silica gel chromatography (5% MeOH in dichloromethane) to afford the desired product. 1H-NMR (CDCl3, 400 MHz) δ 4.93 (s, 2H), 7.46-7.57 (m, 4H), 7.84 (d, J=8.4 Hz, 1H), 7.88 (d, J=8.8 Hz, 1H), 8.14-8.18 (m, 3H), 8.23 (d, J=8.4 Hz, 1H). MS (ES+): m/z 236 [MH+]. HPLC: tR=2.72 min (OpenLynx, polar—5 min).

reactant | 2-phenylquinoline-7-carboxylic acid hydrochloride | 0.5 mmol, 144 mg | Cl.C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C(=O)O
reactant | LiAlH4 | 2.5 mmol, 95 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-Phenylquinolin-7-yl)methanol | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)CO | C16H13NO
